US20010027196A1
(RS)-2-Amino-4-furan-2-yl-6-( 1-methyl-2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 1-phenylamino-2-amino-propane hydrochloride and DBU in DME. ES-MS m/e (%): 335 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 1-phenylamino-2-amino-propane hydrochloride | Cl.C1(=CC=CC=C1)NCC(C)N
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | (RS)-2-Amino-4-furan-2-yl-6-( 1-methyl-2-phenylamino-ethylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NC(CNC1=CC=CC=C1)C | C18H18N6O
